Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ M w/ no significant pmhx who presented to ___ 
___ after a witnessed syncopal event with LOC. He was in his 
usual
state of health yesterday, had swam and gone for a walk, was at
dinner at his home, standing in the kitchen when felt weak and
lightheaded, diaphoretic and flushed. He laid down in a separate
room. A family friend who was at dinner and an ___ MD later told
him that he was ___ have had a few clonic-tonic appearing
movements in his arm, his eyes reportedly rolled back in his
head, no loss of bladder control, bowel control or tongue 
biting.

Per chart review, his initial BP was 60/40, HR ___ with 1st
degree delay. Symptoms and VS improved after EMS gave IVF,
atropine and glucose. 
 
He was reportedly treated for viral URI in ___ from which
he recovered recently. He reportedly also had a prolonged viral
pneumonia last ___. He has had frequent syncopal events d/t
sight of needles but states these felt different than this
episode. He reports no other orthostatic or vasovagal episodes.
No history of cardiac disease, no history of catheterizations. 

In the ___ initial vitals were: HR 49-55, BP 111-130/60-80, RR
___, O2 98-100%RA. 

EKG: 1st degree AV delay with early R wave progression

Labs/studies notable for: Trop <0.01 
Patient was given: IVF 
Vitals on transfer:  ___ 1040 Temp: 98.0 PO BP: 136/67 L
Lying HR: 60 RR: 16 O2 sat: 96% O2 delivery: RA 

On the floor he denies current or prior chest pain, no pressure,
no palpitations, no orthopnea, no PND, no DOE, no f/c/n/v. 

REVIEW OF SYSTEMS:  
Positive per HPI.  

Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations. 
 
Past Medical History:
- Pre-DM
- HTN
 
Social History:
___
Family History:
Father MI
Brother: PAD 
 
Physical Exam:
PHYSICAL EXAMINATION:  
=======================  
VS: 
24 HR Data (last updated ___ @ 1125)
    Temp: 98.0 (Tm 98.0), BP: 136/67, HR: 60, RR: 16, O2 sat:
96%, O2 delivery: RA, Wt: 163.8 lb/74.3 kg  

GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
NECK: Supple. No VJP.  
CARDIAC: Regular rate and rhythm. nS1/S2. No murmurs, rubs, or
gallops. No thrills or lifts.  
LUNGS: CTAB, no wheeze, no crackles.
ABDOMEN: NTND, bowel sounds present.   
EXTREMITIES: WWP, no clubbing. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM

PHYSICAL EXAMINATION:  
=======================  
24 HR Data (last updated ___ @ 1558)
    Temp: 97.9 (Tm 98.5), BP: 130/74 (123-137/61-74), HR: 56
(37-56), RR: 18 (___), O2 sat: 94% (94-99), O2 delivery: ra,
Wt: 159.8 lb/72.49 kg  

GENERAL: NAD, anxious appearing. 
LYMPH: No cervical or axillary LAD. 
CARDIAC: sinus bradycardia, nS1/S2. No g/m/r. 
LUNGS: CTAB, no wheeze, no crackles.
EXTREMITIES: WWP, no clubbing. 
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS
___ 12:50AM BLOOD WBC-18.9* RBC-3.43* Hgb-11.8* Hct-33.8* 
MCV-99* MCH-34.4* MCHC-34.9 RDW-12.8 RDWSD-46.5* Plt Ct-93*
___ 12:50AM BLOOD Neuts-14* Bands-0 Lymphs-74* Monos-10 
Eos-1 Baso-1 ___ Myelos-0 AbsNeut-2.65 
AbsLymp-13.99* AbsMono-1.89* AbsEos-0.19 AbsBaso-0.19*
___ 12:50AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-OCCASIONAL Microcy-NORMAL Polychr-NORMAL
___ 12:50AM BLOOD Plt Smr-LOW* Plt Ct-93*
___ 12:50AM BLOOD Glucose-141* UreaN-13 Creat-0.8 Na-136 
K-3.9 Cl-101 HCO3-23 AnGap-12
___ 12:50AM BLOOD cTropnT-<0.01
___ 12:50AM BLOOD Calcium-8.6 Phos-2.6* Mg-1.8
___ 01:12AM BLOOD %HbA1c-7.3* eAG-163*

DISCHARGE LABS
___ 07:05AM BLOOD TSH-1.7
___ 07:05AM BLOOD WBC-20.5* RBC-3.81* Hgb-13.2* Hct-37.9* 
MCV-100* MCH-34.6* MCHC-34.8 RDW-13.1 RDWSD-47.2* Plt Ct-94*
___ 08:10AM BLOOD WBC-18.4* RBC-4.01* Hgb-13.7 Hct-39.4* 
MCV-98 MCH-34.2* MCHC-34.8 RDW-12.9 RDWSD-46.3 Plt ___
___ 07:05AM BLOOD Neuts-21* Bands-0 Lymphs-74* Monos-3* 
Eos-1 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-4.31 
AbsLymp-15.38* AbsMono-0.62 AbsEos-0.21 AbsBaso-0.00*
___ 07:05AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 08:10AM BLOOD Glucose-151* UreaN-11 Creat-0.9 Na-143 
K-4.4 Cl-104 HCO3-27 AnGap-12

STUDIES
The left atrium is elongated. The right atrium is mildly 
enlarged. There is normal left ventricular wall thickness with a 
normal cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 66 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus is 
mildly dilated with mildly dilated ascending aorta. The aortic 
arch diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
trace aortic regurgitation. The mitral valve
leaflets are mildly thickened with no mitral valve prolapse. 
There is trivial mitral regurgitation. There is mild pulmonic 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.
IMPRESSION: No structural cardiac cause of syncope identified. 
Normal biventricular wall thickness, cavity size, and 
regional/global systolic function. No diastolic dysfunction or 
pulmonary hypertension. Trivial aortic regurgitation. Thoracic 
aortic dilation.

RESTING DATA
EKG:  SINUS BRADY, AV DELAY 
HEART RATE:  58BLOOD PRESSURE:  142/72
 
PROTOCOL ___ - TREADMILL
STAGETIMESPEEDELEVATIONHEARTBLOODRPP
 (MIN)(MPH)(%)RATEPRESSURE 
___
 
TOTAL EXERCISE TIME:  10.75% MAX HRT RATE ACHIEVED:  98
SYMPTOMS:NONE 
ST DEPRESSION:EQUIVOCAL
 
INTERPRETATION: This ___ yo man with h/o HTN, HLD, pre-DM, and 
family
h/o premature CAD was referred to the lab from the inpatient 
floor
following negative serial cardiac enzyme for evaluation of 
syncope,
bradycardia, and heart rate response. The patient exercised for 
10.75
minutes of ___ protocol and was stopped for fatigue. The 
estimated
peak MET capacity was 11.7, which represents a good exercise 
tolerance
for his age. There were no reports of chest, back, neck, or arm
discomforts, or presyncopal symptoms during the study. There 
were no
significant ST changes noted during exercise. By 7 minutes of 
recovery,
biphasic T waves were noted in the inferolateral leads. These 
changes
resolved back to baseline with lying supine by 17 minutes of 
recovery.
Rhythm was sinus with rare isolated VPBs. There was an 
appropriate heart
rate and blood pressure response during exercise and recovery.
IMPRESSION: Non-specific EKG changes during recovery in the 
absence of
anginal or presyncopal type symptoms. Good functional capacity.
Appropriate hemodynamic response.

 
Brief Hospital Course:
ADMISSION
___ M w/ history of vasovagal syncope presented to ___ 
after a witnessed syncopal event with LOC.

ACUTE ISSUES
#Syncopal event with LOC: work up included stress test and 
echocardiogram which were normal. Was monitored on tele and 
noted to have bradycardia but this is thought to be unrelated to 
his syncopal episode which is thought to be vasovagal. His 
telemetry during ~___ of monitoring w/ only one 3.4-second 
pause, bradycardia with junctional escape beats, and EKG 
significant only for 1st degree AV delay. He should follow with 
Dr. ___ in EP for further evaluation. He will be discharged 
with ___ of hearts monitor for evaluation of arrhythmias and 
determination of if he will need a pacemaker in the future.

#Smudge Cell on Peripheral Smear: Pt denies any f/c, no night 
sweats, no fatigue, no weight loss. incidentally found, 
recommend referral as outpatient to heme/onc for potential PET 
scan as well as CT Torso.

#Lung opacity: On CXR there is a round hazy opacity in the left 
base could represent focal
pneumonia.  No pleural effusion.  No pneumothorax.  
Cardiomediastinal border
is within normal limits. This imaging finding may be further 
evaluated as an outpatient with CT Torso. 

TRANSITIONAL ISSUES
[ ] ___ monitor to assess for arrhythmias
[ ] Found to have smudge cells, recommend referral to heme/onc 
with outpatient PET

# CODE STATUS: Full Code (presumed) 
# CONTACT: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Lisinopril 10 mg PO DAILY 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
5. Vitamin D Dose is Unknown  PO Frequency is Unknown 
6. Cyanocobalamin Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Cyanocobalamin 25 mcg PO DAILY  
2.  Vitamin D 400 UNIT PO DAILY  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath  
4.  Aspirin 81 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Vasovagal Syncope
#Atypical Lymphocyte

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because you had an episode 
where you lost consciousness. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- Your heart rhythm was monitored on telemetry for 36-hours
- Your heart rhythm was monitored with EKGs
- Your heart structure was assessed with an ultrasound 
echocardiolgy test
- Your heart rhythm was assessed with an exercise stress test
- We checked your blood for any electrolyte or cardiac 
abnormalities that would explain this event. Your electrolyte 
and cardiac labs were normal. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================
- You should follow up with your PCP ___ as early 
as possible. He will help you to coordinate an event monitor. 
- You should follow up with your cardiac electrophysiologist Dr. 
___ within ___ weeks for further evaluation of this 
syncopal event. 
- You should follow up with a hematologist/oncologist for 
evaluation of atypical cells seen on your blood work. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely, 
Your ___ Healthcare Team  
 

 
Followup Instructions:
___